US07115750B1
4-[[2-(2-Piperidinoethyl)-6-tetralinyl]oxymethyl]benzoic acid
3N Aqueous sodium hydroxide solution (1.8 ml) was added to methanol solution (20 ml) of methyl 4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzoate hydrochloride (1.06 g), which was refluxed with heating for 6 hours. After the reaction mixture was concentrated, water was added to the reaction mixture. Further, 1N hydrochloric acid was added to make the pH of the mixture about 7. The resulting crystals were filtered to give the titled compound (0.93 g). Recrystallization from ethanol gave crystals of the following melting points.

reactant | sodium hydroxide | 3N, 1.8 ml | [OH-].[Na+]
reactant | methyl 4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzoate hydrochloride | 1.06 g | Cl.N1(CCCCC1)CCC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C(=O)OC)C=C1
solvent | methanol | 20 ml | CO | CH4O
product | 4-[[2-(2-Piperidinoethyl)-6-tetralinyl]oxymethyl]benzoic acid | 0.93 g | N1(CCCCC1)CCC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C(=O)O)C=C1 | C25H31NO3
